*** SPICE deck for cell commondrainampr_1{lay} from library design
*** Created on Mon Apr 27, 2026 12:48:43
*** Last revised on Mon Apr 27, 2026 13:12:31
*** Written on Mon Apr 27, 2026 13:13:32 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: commondrainampr_1{lay}
Mnmos_0 vout vin vdd 0 N L=1.2U W=1.2U AS=4.74P AD=3.9P PS=15.8U PD=13U
Mnmos_1 0 vb vout 0 N L=0.8U W=4U AS=3.9P AD=7.54P PS=13U PD=23.8U

* Spice Code nodes in cell cell 'commondrainampr_1{lay}'
vdd vdd 0 DC 5
vb vb 0 DC 1
*vin vin 0 ac sin(4 1 1k 0 0 0 50)
*vin vin 0 ac.sin(4 1 1k 0 0 0 50)
vin vin 0 dc 5
*.ac dec 100 100 10g
.dc vin 0 5 .1
*.tran 0 5m
.include "C:\Users\Kanak Pradhan\OneDrive\Desktop\verilog_project\C5_models\C5_models.txt"
*.options post
.END
